US04006176
To 186.3 grams (0.5 moles) of the tris-trimethylsiloxy-3-chloropropylsilane in 250 gm. of 2-butanone is added 71.5 grams (0.5 moles) of methyloctylamine. The mixture is heated in an autoclave under 200 psi. nitrogen to 130° C. for 18 hours. The 2-butonone is removed from the product by distillation and the residue is added to two liters of hexane. An excess of trimethylamine (anhydrous gas) is added and the mixture is allowed to stir for 16 hours. Filtration to remove the trimethylamine hydrochloride salt, and short path distillation of the filtrate yields tris-trimethylsiloxy-3-octylmethylaminopropylsilane.

reactant | tris-trimethylsiloxy-3-chloropropylsilane | 0.5 moles, 186.3 grams | C[Si](O[Si](CCCCl)(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C12H33ClO3Si4
reactant | methyloctylamine | 0.5 moles, 71.5 grams | CNCCCCCCCC | C9H21N
reactant | 2-butanone | CC(CC)=O | C4H8O
product | tris-trimethylsiloxy-3-octylmethylaminopropylsilane | C[Si](O[Si](CCC(CCCCCCCC)NC)(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C21H53NO3Si4
